US06900215B2
3-Bromoimidazo[1,2-α]pyrimidin-7-ylmethanol was coupled with 3′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-fluoro-5′-(7-hydroxymethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as a yellow solid: δH (360 MHz, DMSO) 4.71 (2H, d, J 6), 5.81 (1H, t, J 6), 7.31 (1H, d, J 7), 7.63 (1H, d, J 9), 7.74-7.95 (5H, m), 8.10 (1H, d, J 8), 8.14 (1H, s), 9.26 (1H, d, J 7); m/z (ES+) 345 (M++H).

reactant | 3-Bromoimidazo[1,2-α]pyrimidin-7-ylmethanol | BrC1=CN=C2N1C=CC(=N2)CO | C7H6BrN3O
reactant | 3′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 3′-fluoro-5′-(7-hydroxymethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC=1C=C(C=C(C1)C1=CN=C2N1C=CC(=N2)CO)C=2C(=CC=CC2)C#N | C20H13FN4O
